US06194425B1
Using the general method of Example 97 3-hydroxyphenyl acetic acid (0.26 g, 1.7 mmole) was reacted with 2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethaneamine (0.5 g, 1.7 mmol) to provide 0.13 g of N1-[2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethyl]-2-(3-hydroxyphenyl)acetamide as a white powder, m.p. 208-210° C. Analysis: Calculated for C23H26N6O2: % C, 66.01; % H, 6.26; % N, 20.08; Found: % C, 65.63; % H, 6.11; % N, 20.30. HRMS (EI) calcd for C23H26N6O2 (M+) 418.2117 found 418.2109.

reactant | 3-hydroxyphenyl acetic acid | 1.7 mmole, 0.26 g | OC=1C=C(C=CC1)CC(=O)O | C8H8O3
reactant | 2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethaneamine | 1.7 mmol, 0.5 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCN)CCCC | C15H20N6
product | N1-[2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethyl]-2-(3-hydroxyphenyl)acetamide | 0.13 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCNC(CC2=CC(=CC=C2)O)=O)CCCC | C23H26N6O2
